US07687522B2
Step 6. N-(4-(4-(1-benzyl-2-(4-fluorophenylamino)-6-oxo-1,6-dihydropyrimidin-5-yl)-2-fluorophenoxy)pyridin-2-yl)pyrrolidine-1-carboxamide
5-(4-(2-aminopyridin-4-yloxy)-3-fluorophenyl)-3-benzyl-2-(4-fluorophenylamino)pyrimidin-4(3H)-one (238 mg, 0.478 mmol) was dissolved in THF (4.0 ml) and Et3N (0.17 ml, 1220 μmol) and phenyl chloroformate (0.13 ml, 1.0 mmol) were added. The reaction was stirred under nitrogen, and after 40 minutes, pyrrolidine (0.60 ml, 7.2 mmol) was added. Stirring was continued at room temperature, until LCMS analysis indicated the formation of the product. The reaction was quenched with saturated ammonium chloride (10 ml) and extracted with DCM (3×20 ml). The organic extracts were combined, dried over sodium sulfate, filtered, concentrated, and purified on a silica gel column (30:1->20:1 DCM/MeOH). The fractions with product were collected, concentrated, and washed with Et2O and then with acetone. The suspension was filtered, and the solid was collected and dried in vacuo to afford the desired title compound N-(4-(4-(1-benzyl-2-(4-fluorophenylamino)-6-oxo-1,6-dihydropyrimidin-5-yl)-2-fluorophenoxy)pyridin-2-yl)pyrrolidine-1-carboxamide (33.2 mg, 0.0558 mmol, 4% over 3 steps). MS (ESI pos. ion) m/z: 595 (MH+). Calc'd exact mass for C33H25F2N6O3: 594. 1HNMR (400 MHz, CDCl3): 8.06 (d, J=6.4 Hz, 1H), 7.98 (s, 1H), 7.79 (d, J=1.2 Hz, 1H), 7.68 (dd, J=10.4 Hz, 2.0 Hz, 1H), 7.51-7.39 (m, 6H), 7.22 (t, J=8.0 Hz, 1H), 7.15 (dd, J=9.2 Hz, 5.2 Hz, 2H), 7.06-6.99 (m, 3H), 6.57 (dd, J=5.2 Hz, 3.2 Hz, 1H), 6.44 (s, 1H), 5.49 (s, 2H), 3.49-3.43 (m, 4H), 1.99-1.94 (m, 4H).

reactant | 5-(4-(2-aminopyridin-4-yloxy)-3-fluorophenyl)-3-benzyl-2-(4-fluorophenylamino)pyrimidin-4(3H)-one | 0.478 mmol, 238 mg | NC1=NC=CC(=C1)OC1=C(C=C(C=C1)C=1C(N(C(=NC1)NC1=CC=C(C=C1)F)CC1=CC=CC=C1)=O)F | C28H21F2N5O2
reactant | Et3N | 1220 μmol, 0.17 ml | CCN(CC)CC | C6H15N
reactant | phenyl chloroformate | 1.0 mmol, 0.13 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | pyrrolidine | 7.2 mmol, 0.60 ml | N1CCCC1 | C4H9N
solvent | THF | 4.0 ml | C1CCOC1 | C4H8O
product | N-(4-(4-(1-benzyl-2-(4-fluorophenylamino)-6-oxo-1,6-dihydropyrimidin-5-yl)-2-fluorophenoxy)pyridin-2-yl)pyrrolidine-1-carboxamide | 0.0558 mmol, 33.2 mg, 4% | C(C1=CC=CC=C1)N1C(=NC=C(C1=O)C1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCCC2)C=C1)F)NC1=CC=C(C=C1)F | C33H28F2N6O3
